US07419984B2
N*4*-{4-Azido-phenyl)-6-(2-ethoxy-5-iodo-phenyl)-pyrimidine-2,4-diamine
To a mixture of 4-chloro-6-(5-iodo-2-ethoxy-phenyl)pyrimidin-2-ylamine (7.0 mg, 0.02 mmol) and 4-azidoaniline hydrochloride (5.0 mg, 0.03 mmol) in tert-butanol (1 ml) was added a 1 M hydrogen chloride in dioxane (0.2 ml). The mixture was heated at 90° C. for 2 hours. After cooling to room temperature, the mixture was treated with 1 M aqueous sodium bicarbonate solution (1 ml) and extracted with ethyl acetate (2×1 ml). The combined extracts were concentrated under reduced pressure and the residue was purified by preparative TLC eluting with 35% ethyl acetate-hexane to provide the title compound (6 mg, 68% yield) as a light brown solid. 1H NMR (CDCl3) δ 8.20 (d, J=2.3 Hz, 1H), 7.60 (dd, J=2.3, 8.70 Hz, 1H), 7.38 (d, J=8.70 Hz, 2H), 7.04 (d, J=8.70 Hz, 2H), 6.77 (s, 1H), 6.72 (d, J=5.0 Hz, 1H), 6.63 (br s, 1H), 4.91 (br s, 2H), 4.09 (q, J=7.0 Hz, 2H), 1.38 (t, J=7.0 Hz, 3H).

reactant | 4-chloro-6-(5-iodo-2-ethoxy-phenyl)pyrimidin-2-ylamine | 0.02 mmol, 7.0 mg | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)I)OCC)N | C12H11ClIN3O
reactant | 4-azidoaniline hydrochloride | 0.03 mmol, 5.0 mg | Cl.N(=[N+]=[N-])C1=CC=C(N)C=C1
reactant | hydrogen chloride | 1 M | Cl | ClH
reactant | sodium bicarbonate | 1 M, 1 ml | C([O-])(O)=O.[Na+]
solvent | tert-butanol | 1 ml | C(C)(C)(C)O | C4H10O
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | N*4*-{4-Azido-phenyl)-6-(2-ethoxy-5-iodo-phenyl)-pyrimidine-2,4-diamine | 6 mg, 68% yield | N(=[N+]=[N-])C1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=C(C=CC(=C1)I)OCC)N | C18H16IN7O
